US04061656
4.4 G of 2,4-dimethyl-3-hydroxymethylthiophene and 10.7 g. of triphenylphosphonium bromide were dissolved in 40 ml. of acetonitrile and stirred at 40° C. for 1 hour. The resulting solution was cooled and 150 ml. of ethyl ether was added. The white precipitate which formed was filterd and washed with cold acetone to yield (2,4-dimethyl-3-thenyl)triphenylphosphonium bromide, m.p. 262°-265° C.

reactant | 2,4-dimethyl-3-hydroxymethylthiophene | CC=1SC=C(C1CO)C | C7H10OS
reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
product | (2,4-dimethyl-3-thenyl)triphenylphosphonium bromide | [Br-].CC1=C(C(=CS1)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H24PS.BrH/c1-20-19-27-21(2)25(20)18-26(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;/h3-17,19H,18H2,1-2H3;1H/q+1;/p-1
